US04241076
(e) cis-4-Fluoro-L-proline, hydrobromide
The cis-N-carbobenzyloxy-4-fluoro-L-proline (5.5 g., 0.021 mole) is treated with 28 ml. of hydrogen bromide in acetic acid (30-32%), stoppered loosely, and stirred for one hour. Ether (300 ml.) is added to the yellow mixture and when the crystalline product has settled the ethereal liquor is decanted and the material washed with 300 ml. of fresh ether by decantation. The product is finally heated in the steam bath with 70 ml. of methyl ethyl ketone, cooled for two hours, washed with cold methyl ethyl ketone and with ether, and dried in vacuo. The yield of nearly colorless solid, cis-4-fluoro-L-proline, hydrobromide is 3.8 g. (86%), m.p. 189°-191° (dec.), [α]D26 -19° (c=1, methanol).

reactant | cis-N-carbobenzyloxy-4-fluoro-L-proline | 0.021 mole, 5.5 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)C[C@@H](C1)F | C13H14FNO4
reactant | hydrogen bromide | Br | BrH
reactant | Ether | 300 ml | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | cis-4-Fluoro-L-proline, hydrobromide | Br.F[C@H]1C[C@H](NC1)C(=O)O | InChI=1S/C5H8FNO2.BrH/c6-3-1-4(5(8)9)7-2-3;/h3-4,7H,1-2H2,(H,8,9);1H/t3-,4-;/m0./s1
